US08071595B2
To a solution of (Z)-4-hydroxy-N-methyl-3-(pyridin-4-yl)-2-(4-(quinolin-2-ylmethoxy)phenyl)-but-2-enamide (430 mg, 1.01 mmol) in Ether: DCM (20 mL; 1:1) was added PBr3 (0.114 mL, 1.21 mol) dropwise at 0° C. The reaction mixture was stirred at RT for 2 h. The reaction mixture was then diluted with DCM and basified with NaHCO3 solution. The organic layer was separated, washed with water, dried over Na2SO4 and concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography to afford 1-methyl-4-(pyridin-4-yl)-3-(4-(quinolin-2-ylmethoxy)phenyl)-1H-pyrrol-2(5H)-one (350 mg, 85%) as a solid. 1H NMR (500 MHz, CD3OD): δ 8.81 (d, J=7.8 Hz, 2H), 8.24-8.19 (m, 2H), 8.11-7.94 (m, 3H), 7.85-7.80 (m, 1H), 7.59 (d, J=7.2 Hz, 2H), 7.44 (s, 2H), 7.21 (d, J=7.2 Hz, 2H), 5.61 (s, 2H), 3.38 (s, 2H), 3.09 (s, 3H). MS: m/z=408.2. HPLC: 89%, (Condition-B).

reactant | (Z)-4-hydroxy-N-methyl-3-(pyridin-4-yl)-2-(4-(quinolin-2-ylmethoxy)phenyl)-but-2-enamide | 1.01 mmol, 430 mg | OC\C(=C(/C(=O)NC)\C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)\C1=CC=NC=C1 | C26H23N3O3
reactant | PBr3 | 1.21 mol, 0.114 mL | P(Br)(Br)Br | Br3P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | Ether | CCOCC | C4H10O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-methyl-4-(pyridin-4-yl)-3-(4-(quinolin-2-ylmethoxy)phenyl)-1H-pyrrol-2(5H)-one | 350 mg, 85% | CN1C(C(=C(C1)C1=CC=NC=C1)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C26H21N3O2
